US09079861B2
To a solution of methyl (1S)-1-(4-bromophenyl)ethyl(3-((S)-tert-butylsulfinylimino)-3-(4-fluorophenyl)propyl)carbamate (200 mg, 0.4 mmol) in anhydrous THF (5 mL) was added 1M allylmagnesium bromide (1.2 mL, 1.2 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 4 h and allowed to warm to rt. After stirring for 2 h at rt, the reaction mixture was quenched with satd aq NH4Cl and extracted with EtOAc (2×). The combined organic phases were dried, filtered and concentrated to give a residue, which was purified by TLC to provide methyl (S)-1-(4-bromophenyl)ethyl((S)-3-((S)-1,1-dimethylethylsulfinamido)-3-(4-fluorophenyl)hex-5-enyl)carbamate (96 mg, 45%). 1H NMR (CD3OD): 1.28 (m, 9H), 1.48 (m, 3H), 2.10 (m, 1H), 2.30 (m, 1H), 2.72 (m, 4H), 3.66 (m, 3H), 5.08 (m, 2H), 5.40 (m, 2H), 7.10 (m, 4H), 7.32 (m, 2H), 7.50 (m, 2H).

reactant | methyl (1S)-1-(4-bromophenyl)ethyl(3-((S)-tert-butylsulfinylimino)-3-(4-fluorophenyl)propyl)carbamate | 0.4 mmol, 200 mg | BrC1=CC=C(C=C1)[C@H](C)N(C(OC)=O)CCC(C1=CC=C(C=C1)F)=N[S@@](=O)C(C)(C)C | C23H28BrFN2O3S
reactant | allylmagnesium bromide | 1.2 mmol, 1M, 1.2 mL | C(C=C)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | methyl (S)-1-(4-bromophenyl)ethyl((S)-3-((S)-1,1-dimethylethylsulfinamido)-3-(4-fluorophenyl)hex-5-enyl)carbamate | 96 mg, 45% | BrC1=CC=C(C=C1)[C@H](C)N(C(OC)=O)CC[C@@](CC=C)(C1=CC=C(C=C1)F)N[S@@](=O)C(C)(C)C | C26H34BrFN2O3S
